US08486952B2
To a solution of 2,4-dichloro-7-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation V) (43.1 mg, 0.154 mmol) in THF (772 μL) at rt was added a solution of 2M Ethylamine (386 μL, 0.772 mmol) diluted with 390 uL MeOH (overall reaction is 0.1M in 1:1 THF/MeOH). Let stir at rt. Removed the solvent and subjected the residue to a Silica gel column with an EtOAc/Hex gradient to afford 2-chloro-N-ethyl-7-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (38.0 mg, 0.132 mmol, 86% yield).

reactant | 2,4-dichloro-7-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.154 mmol, 43.1 mg | ClC=1N=C(C2=C(N1)C(CC2)(C2=CC=CC=C2)C)Cl | C14H12Cl2N2
reactant | Ethylamine | 0.772 mmol, 2M, 386 μL | C(C)N | C2H7N
solvent | THF | 772 μL | C1CCOC1 | C4H8O
solvent | MeOH | 0.1M, 390 uL | CO | CH4O
product | 2-chloro-N-ethyl-7-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.132 mmol, 38.0 mg, 86% yield | ClC=1N=C(C2=C(N1)C(CC2)(C2=CC=CC=C2)C)NCC | C16H18ClN3
